US06271225B1
In the same manner as in Starting Material Synthesis Example 51 and using 2-amino-6-fluorobenzo[b]thiophene-3-carbonitrile (4.9 g) and 2,4-difluoro-nitrobenzene (4.1 g), 6-fluoro-2-(5-fluoro-2-nitroanilino)benzo[b]thiophene-3-carbonitrile (7.8 g) was obtained.

reactant | 2-amino-6-fluorobenzo[b]thiophene-3-carbonitrile | 4.9 g | NC1=C(C2=C(S1)C=C(C=C2)F)C#N | C9H5FN2S
reactant | 2,4-difluoro-nitrobenzene | 4.1 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
product | 6-fluoro-2-(5-fluoro-2-nitroanilino)benzo[b]thiophene-3-carbonitrile | 7.8 g | FC=1C=CC2=C(SC(=C2C#N)NC2=C(C=CC(=C2)F)[N+](=O)[O-])C1 | C15H7F2N3O2S
